US03940400
A. 2-(1-Bromo-2-naphthylmethylamino)-1-phenyl-1-propanol hydrochloride
A mixture of 38.4 g (0.164 mole) 1-bromo-2-naphthaldehyde, 16.4g (0.164 mole) triethylamine, and 30.6 g (0.164 mole) of 2-amino-1-phenyl-1-propanol hydrochloride in 500 ml CH3OH was stirred and refluxed for 60 minutes, then cooled to 10°-20° while 6.23 g (0.164 mole) of sodium borohydride was added over 5 minutes. The reaction mixture was stirred at ambient temperature (15°-21°) for 60 minutes and diluted with 500 ml H2O. The mixture was stirred for 15 minutes and extracted with 2 × 350 ml CHCl3. The combined extracts were dried (MgSO4) and concentrated to dryness in vacuo to give 59.6 g (99%) of the free base.

reactant | 1-bromo-2-naphthaldehyde | 0.164 mole, 38.4 g | BrC1=C(C=CC2=CC=CC=C12)C=O | C11H7BrO
reactant | triethylamine | 0.164 mole, 16.4g | C(C)N(CC)CC | C6H15N
reactant | 2-amino-1-phenyl-1-propanol hydrochloride | 0.164 mole, 30.6 g | Cl.NC(C(O)C1=CC=CC=C1)C
reactant | sodium borohydride | 0.164 mole, 6.23 g | [BH4-].[Na+]
solvent | CH3OH | 500 ml | CO | CH4O
solvent | H2O | 500 ml | O | H2O
product | 2-(1-Bromo-2-naphthylmethylamino)-1-phenyl-1-propanol hydrochloride | 59.6 g, 99% | Cl.BrC1=C(C=CC2=CC=CC=C12)CNC(C(O)C1=CC=CC=C1)C | InChI=1S/C20H20BrNO.ClH/c1-14(20(23)16-8-3-2-4-9-16)22-13-17-12-11-15-7-5-6-10-18(15)19(17)21;/h2-12,14,20,22-23H,13H2,1H3;1H
